US05364866
A mixture of N-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl]phthalimide (8.5 g, 21 moles), hydrazine monohydrate (1.5 g, 30 mmoles) in methanol (60 ml) was heated at reflux for 2 hours. At the end of the reaction, methanol was removed to leave a crude solid. To this was added water (60 ml), then the mixture was acidified with HCl to pH 1. The insolubles were filtered with the aid of a pad of celite. The aqueous solution was basified with 50% NaOH, (pH 13), then extracted with dichloromethane. The combined dichloromethane solution was washed with brine, then dried to a colorless oil (4.5 g). The analytical sample (1.5 g) was prepared by treating the oil with HCl in ethanol at 0° C. The 1-(3-aminopropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine dihydrochloride was obtained as white crystals, 2.03 g, m.p.=231°-234° C.

reactant | N-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl]phthalimide | 21 moles, 8.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C23H22FN3O3
reactant | hydrazine monohydrate | 30 mmoles, 1.5 g | O.NN
reactant | water | 60 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-aminopropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine dihydrochloride | Cl.Cl.NCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | InChI=1S/C15H20FN3O.2ClH/c16-12-2-3-13-14(10-12)20-18-15(13)11-4-8-19(9-5-11)7-1-6-17;;/h2-3,10-11H,1,4-9,17H2;2*1H
